US07262185B2
A solution of 2-(4-fluorobenzoyl)-6-methylpyridine (2.0 g) and sodium azide (3.36 g) in DMSO (40 ml) and the mixture was stirred for 24 hours at 90° C. To the reaction mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and a solution of the residue (1.88 g) in THF (40 ml) was added dropwise to a suspension of aluminum lithium hydride (0.60 g) in. THF (20 ml) at 0° C. The mixture was stirred at room temperature for 30 minutes, and water (0.6 ml), 15% aqueous solution of sodium hydroxide (0.6 ml) and water (1.8 ml) were sequentially and slowly added dropwise to the solution at 0° C. The mixture was stirred at room temperature for 4 days, magnesium sulfate was added to the mixture, and the precipitates were removed by filtration (Celite). The reaction mixure was concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (ethyl acetate), to give (4-aminophenyl)(6-methylpyridin-2-yl)methanol (1.44 g) as pale yellow crystals.

reactant | 2-(4-fluorobenzoyl)-6-methylpyridine | 2.0 g | FC1=CC=C(C(=O)C2=NC(=CC=C2)C)C=C1 | C13H10FNO
reactant | sodium azide | 3.36 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | (4-aminophenyl)(6-methylpyridin-2-yl)methanol | 1.44 g | NC1=CC=C(C=C1)C(O)C1=NC(=CC=C1)C | C13H14N2O
